US05700940
67. Preparation of N-(2,6-Difluorophenyl)-5-chloro-8-methoxy[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide
Dimethyl sulfoxide (90 microliters, 94 micrograms, 1.2 mmol) was added with stirring to a solution of 2-chlorosulfonyl-5-chloro-8-methoxy[1,2,4]triazolo[1,5-a]pyridine (1.7 g, 6 mmol), 2,6-difluoroaniline (1.6 g, 12 mmol) and pyridine (0.5 g, 6 mmol) in acetonitrile (20 mL) at ambient temperature. The reaction was complete in about 20 min. Dichloromethane and water were added and the solid that separated was collected by filtration. The organic layer was concentrated by evaporation and the residue obtained was washed with water and combined with the earlier obtained solid. The combined solids were then washed with ether and hexane and dried to obtain 1.4 g of the title compound as an off-white powder melting at 190°-191° C. (d).

reactant | Dimethyl sulfoxide | 1.2 mmol, 90 microliters, 94 micrograms | CS(=O)C | C2H6OS
reactant | 2-chlorosulfonyl-5-chloro-8-methoxy[1,2,4]triazolo[1,5-a]pyridine | 6 mmol, 1.7 g | ClS(=O)(=O)C1=NN2C(C(=CC=C2Cl)OC)=N1 | C7H5Cl2N3O3S
reactant | 2,6-difluoroaniline | 12 mmol, 1.6 g | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | pyridine | 6 mmol, 0.5 g | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | Dichloromethane | ClCCl | CH2Cl2
product | N-(2,6-Difluorophenyl)-5-chloro-8-methoxy[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide | 1.4 g | FC1=C(C(=CC=C1)F)NS(=O)(=O)C1=NN2C(C(=CC=C2Cl)OC)=N1 | C13H9ClF2N4O3S
